US05869518
5-methyl-γ-oxo-α(S)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoic acid.
By reproducing this example using as starting material 1H-isoindole-1,3-(2H)-dione, it was possible to prepare γ-oxo-α(S)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoic acid, γ-oxo-α(R)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoic acid and γ-oxo-α(R,S)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoic acid.

reactant | 1H-isoindole-1,3-(2H)-dione | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | γ-oxo-α(S)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoic acid | O=C(C[C@@H](C(=O)O)CC1=CC=CC=C1)N1CC2=CC=CC=C2C1 | C19H19NO3
reactant | γ-oxo-α(R)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoic acid | O=C(C[C@H](C(=O)O)CC1=CC=CC=C1)N1CC2=CC=CC=C2C1 | C19H19NO3
reactant | γ-oxo-α(R,S)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoic acid | O=C(CC(C(=O)O)CC1=CC=CC=C1)N1CC2=CC=CC=C2C1 | C19H19NO3
product | 5-methyl-γ-oxo-α(S)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoic acid | CC=1C=C2CN(CC2=CC1)C(C[C@@H](C(=O)O)CC1=CC=CC=C1)=O | C20H21NO3
